US07767672B2
6-(3-cyclopropyl-3-fluoroazetidin-1-yl)-5-fluoro-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylsulfonyl)pyrimidin-4-amine
A suspension of 6-chloro-5-fluoro-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylsulfonyl)pyrimidin-4-amine (100 mg, 0.33 mmol) and 3-cyclopropyl-3-fluoroazetidine (50 mg, 0.33 mmol) in acetonitrile (5 ml) was heated to 50° C. and stirred for 1 hr. The mixture was allowed to cool and diluted with ethylacetate (20 ml) and water (20 ml). The organic layer was dried (Na2SO4) and concentrated to give a solid. Purification by flash column chromatography eluting with 40% ethylacetate/hexanes and ethyl acetate gave the title compound as an off white solid (64 mg, 51%). 1H NMR (DMSO, 400 MHz) 0.51-0.52 (2H, m), 0.68-0.76 (2H, m), 1.42-1.59 (1H, m), 2.29 (3H, s), 3.31 (3H, s), 4.20-4.36 (4H, m), 6.41 (1H, s), 9.98 (1H, s), 12.13 (1H, s). ES+ 385.

reactant | 6-chloro-5-fluoro-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylsulfonyl)pyrimidin-4-amine | 0.33 mmol, 100 mg | ClC1=C(C(=NC(=N1)S(=O)(=O)C)NC1=CC(=NN1)C)F | C9H9ClFN5O2S
reactant | 3-cyclopropyl-3-fluoroazetidine | 0.33 mmol, 50 mg | C1(CC1)C1(CNC1)F | C6H10FN
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ethylacetate | 20 ml | C(C)OC(C)=O | C4H8O2
solvent | water | 20 ml | O | H2O
product | 6-(3-cyclopropyl-3-fluoroazetidin-1-yl)-5-fluoro-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylsulfonyl)pyrimidin-4-amine | C1(CC1)C1(CN(C1)C1=C(C(=NC(=N1)S(=O)(=O)C)NC1=CC(=NN1)C)F)F | C15H18F2N6O2S
